US07915250B2
To a solution of the 1-(diphenylmethyl)-3-{[(1-methylethyl)amino]methyl}-N-(phenylmethyl)azetidin-3-amine (0.35 g, 0.88 mmol) in methanol was added a solution of hydrogen chloride in dioxane (4 molar solution, 0.96 mL, 4.40 mmol) and the resulting mixture was concentrated to give a white solid which was taken back into methanol. To this solution were added palladium hydroxide (20% on carbon, 0.50 g, 0.19 mmol) and the resulting mixture shaken at 50 psi in a Parr apparatus for 3 h. The reaction mixture was filtered and concentrated to give a solid, which was washed with ether and dried in vacuo to give 3-{[(1-methylethyl)amino]methyl}azetidin-3-amine hydrochloride as a white solid (0.18 g, 81% yield). MS (EI) for C7H17N3: 144 (MH+).

reactant | 1-(diphenylmethyl)-3-{[(1-methylethyl)amino]methyl}-N-(phenylmethyl)azetidin-3-amine | 0.88 mmol, 0.35 g | C1(=CC=CC=C1)C(N1CC(C1)(NCC1=CC=CC=C1)CNC(C)C)C1=CC=CC=C1 | C27H33N3
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 4.40 mmol, 4 molar, 0.96 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide | 0.19 mmol, 0.50 g | [OH-].[Pd+2].[OH-]
product | 3-{[(1-methylethyl)amino]methyl}azetidin-3-amine hydrochloride | 0.18 g, 81% yield | Cl.CC(C)NCC1(CNC1)N | InChI=1S/C7H17N3.ClH/c1-6(2)10-5-7(8)3-9-4-7;/h6,9-10H,3-5,8H2,1-2H3;1H
